US05128356
Methyl 2-butylbenzimidazole-4-carboxylate
To a mixture of conc. HCl (5.3 ml) and methanol (35 ml) was added methyl 3-nitro-2-(N-valerylamino)benzoate (2.8 g), to which was added iron powder (1.7 g) in portions while stirring at room temperature. The resultant mixture was heated for 8 hours under reflux. Insoluble material was filtered off, and the filtrate was concentrated. To the concentrate were added water and ethyl acetate. The aqueous layer was made basic with 6N NaOH and was extracted with ethyl acetate. The organic layers were combined, washed with water and dried. The solvent was evaporated, and the residue was purified by column chromatography on silica gel. The crystals thus obtained were recrystallized from isopropyl ether to give colorless needles (1.6 g, 70%), m.p. 97°-98° C.

reactant | HCl | 5.3 ml | Cl | ClH
reactant | methyl 3-nitro-2-(N-valerylamino)benzoate | 2.8 g | [N+](=O)([O-])C=1C(=C(C(=O)OC)C=CC1)NC(CCCC)=O | C13H16N2O5
catalyst | iron | 1.7 g | [Fe] | Fe
solvent | methanol | 35 ml | CO | CH4O
product | Methyl 2-butylbenzimidazole-4-carboxylate | 1.6 g, 70% | C(CCC)C=1NC2=C(N1)C=CC=C2C(=O)OC | C13H16N2O2
